US08426420B2
iii) 4-((S)-2-Benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid cyclobutyl ester
To a solution of 6.0 g (S)-2-Benzyloxycarbonylamino-pentanedioic acid 5-tert-butyl ester in 50 ml DMF were added 3.3 g piperazine-1-carboxylic acid cyclobutyl ester, 9.1 ml N-ethylmorpholine and 5.9 g TOTU. After stirring for 12 h the solution was diluted with ethyl acetate and subsequently washed with aqueous LiCl (4%) and saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was used without further purification. Yield: 11.1 g.

reactant | (S)-2-Benzyloxycarbonylamino-pentanedioic acid 5-tert-butyl ester | 6.0 g | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C17H23NO6
reactant | piperazine-1-carboxylic acid cyclobutyl ester | 3.3 g | C1(CCC1)OC(=O)N1CCNCC1 | C9H16N2O2
reactant | N-ethylmorpholine | 9.1 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 5.9 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((S)-2-Benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C26H37N3O7
